US05190929
A. Preparation of 1-(4-pyridyl)-3-buten-1-ol
4.75 g (50 mmol) of pyridine-4-carboxaldehyde was dissolved in 50 ml THF and cooled to 0° C. Allyl lithium was then added with stirring until the mixture turned the dark color characteristic of the allyl lithium solution. After stirring for an additional 5 minutes, water was slowly added at 0° C. until two phases formed and all precipitate was dissolved. The THF layer was separated, dried over MgSO4, and evaporated in vacuo to an oil. Flash chromatography yielded 4.69 g (63%) of product as an oil. 1H NMR (CDCL3): 8.5 and 7.3 (4H, pyridyl), 5.8 and 5.15 (3H, vinyl), 4.75 (1H, CHOH), 3.6 (1H, OH), and 2.5 (2H, CH2) ppm.

reactant | pyridine-4-carboxaldehyde | 50 mmol, 4.75 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | Allyl lithium | C(C=C)[Li]
reactant | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-(4-pyridyl)-3-buten-1-ol | 4.69 g, 63% | N1=CC=C(C=C1)C(CC=C)O | C9H11NO
